* Output voltage range simulation

.lib dc3

VIN     in1 0   dc 0
E1      0 in2 in1 0             1
VDD     vdd 0   'half'
VSS     0 vss   'half'
 
* Positive side
X1a     inm1 0 out1 vdd vss     opamp
R1a     in1 inm1                rload
R2a     inm1 out1               rload
 
* Negative side
X1b     inm2 0 out2 vdd vss     opamp
R1b     in2 inm2                rload
R2b     inm2 out2               rload
 
* offset voltage
X1c     inm3 0 os vdd vss       opamp
R1c     0 inm3                  rload
R2c     inm3 os                 rload
 
.PARAM half='psvoltage/2' rload=20k
.DC VIN 10m half '(half-10m)/100'
.PRINT V(out1,os) V(out2,os)
* + PAR'1-ABS(V(out1,os))/V(in1)' PAR'1-ABS(V(out2,os))/V(in1)'
.MEAS DC ovr1 FIND V(in1) WHEN PAR'1-abs(V(out1,os)/V(in1))'=0.05
.MEAS DC ovr2 FIND V(in1) WHEN PAR'1-abs(V(out2,os)/V(in1))'=0.05
.MEAS DC ovr PARAM='(abs(ovr1)+abs(ovr2))/psvoltage*100'
.MEAS DC psvoltage PARAM=psvoltage

.endl dc3
